US05753680
In analogy to Example 1, by reaction of guanidine with methyl 2-fluoro-4-(2-methyl-1-imidazolyl) -5-methylsulfonylbenzoate [obtainable by reacting 2-fluoro-4-chloro-5-methylsulfonylbenzoic acid with 2-methylimidazole followed by esterification] , N-diaminomethylene-2-fluoro-4- (2-methyl-1-imidazolyl) -5-methylsulfonylbenzamide is obtained.

reactant | guanidine | NC(=N)N | CH5N3
reactant | methyl 2-fluoro-4-(2-methyl-1-imidazolyl) -5-methylsulfonylbenzoate | FC1=C(C(=O)OC)C=C(C(=C1)N1C(=NC=C1)C)S(=O)(=O)C | C13H13FN2O4S
product | N-diaminomethylene-2-fluoro-4- (2-methyl-1-imidazolyl) -5-methylsulfonylbenzamide | NC(=NC(C1=C(C=C(C(=C1)S(=O)(=O)C)N1C(=NC=C1)C)F)=O)N | C13H14FN5O3S
